US08912210B2
Step C: (3S,5S,6R)-3-Amino-6-methyl-5-(2-methylphenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one
A solution of tert-butyl[(3S,5S,6R)-6-methyl-5-(2-methylphenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate (152 mg, 0.37 mmol) in ethyl acetate (10 mL), pre-cooled to 0° C. was sparged with HCl gas for ˜1 min. The reaction mixture was allowed to sit for 30 min at 0° C. The mixture was then concentrated to dryness to afford the title compound as a hydrochloride salt. MS: m/z=301.3 (M+1).

reactant | tert-butyl[(3S,5S,6R)-6-methyl-5-(2-methylphenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate | 0.37 mmol, 152 mg | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C=CC=C1)C)C)CC(F)(F)F)=O)=O | C20H27F3N2O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5S,6R)-3-Amino-6-methyl-5-(2-methylphenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one | N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C=CC=C1)C)C)CC(F)(F)F)=O | C15H19F3N2O
